US04935441
A mixture of 1.3 g 3-phenyl-3-phenylmercapto-propionic acid and 4ml phosphorous oxychloride is stirred under nitrogen at 70° C. for four hours. The reaction mixture is then cooled to 4° C. with an ice bath and 4 ml dimethylformamide is added. Stirring is maintained at room temperature for five hours. After cooling with an ice bath, 30 ml of a cooled saturated sodium acetate aqueous solution is added. After a few minutes stirring, the reaction mixture is extracted with methylene chloride, the organic layer washed with a saturated sodium bicarbonate aqueous solution then with water, dried over magnesium sulfate, filtered and evaporated to dryness. The residual oil is purified by column chromatography and pure yellow 4-chloro-3-formyl-thioflav-3-ene is obtained which crystallised after a few days; m.p. 63°-65° C.

reactant | 3-phenyl-3-phenylmercapto-propionic acid | 1.3 g | C1(=CC=CC=C1)C(CC(=O)O)SC1=CC=CC=C1 | C15H14O2S
reactant | phosphorous oxychloride | 4ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium acetate | 30 ml | C(C)(=O)[O-].[Na+]
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 4-chloro-3-formyl-thioflav-3-ene | ClC1=C(C(SC2=CC=CC=C12)C1=CC=CC=C1)C=O | C16H11ClOS
